US04333937
2-[4-(1H-2-Benzimidazolyl)-1-piperazinyl]-6,7-dimethoxy-4-quinazolinamine (Ia: R3 =1H-2-benzimidazolyl; R4, R5, R6 and R9 =H; R7 and R8 =OMe; and n=1)
To 5.14 g of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline hydrochloride in 100 ml butanol, 11 ml of triethylamine was added. The mixture was stirred for 15 min and 2.65 g of 2-chloro-1H-benzimidazole was added. The mixture was refluxed for 18 hr and evaporated. Water was added to the residue and the residue was extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried over sodium sulfate and evaporated. The residue was crystallized from methanol to give 3.5 g of the title compound, which was recrystallized from methanol: mp>250° C.; ir (nujol mull) 3360 and 3180 cm-1 ; uv max (MeOH) 341 (ε=6,300), 284 (ε=28,500) and 251 nm (ε=66,800); nmr (DMSO-d6) ε 3.5 (m, 4H), 3.8 (m, 4H), 3.8 (s, 3H), 3.84 (s, 3H), 7.1 (m, 8H) and 10.7 (s, 1H); and Anal. Calcd for C21H23N7O2. 1/2 H2O: C, 60.86% H, 5.79% N, 23.67% and Found: C, 60.87% H, 5.98% N, 23.65%.

reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline hydrochloride | 5.14 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1
reactant | 2-chloro-1H-benzimidazole | 2.65 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
solvent | butanol | 100 ml | C(CCC)O | C4H10O
solvent | triethylamine | 11 ml | C(C)N(CC)CC | C6H15N
product | 2-[4-(1H-2-Benzimidazolyl)-1-piperazinyl]-6,7-dimethoxy-4-quinazolinamine | 3.5 g | N1C(=NC2=C1C=CC=C2)N2CCN(CC2)C2=NC1=CC(=C(C=C1C(=N2)N)OC)OC | C21H23N7O2
